US05663162
25 g of ammonia gas and 50 g of hydrogen sulfide gas were successively dissolved in 230 ml of methanol with ice-cooling and stirring. To this was added 71.45 g of (tert-butoxycarbonylamino)acetonitrile, and the mixture was stirred overnight at room temperature. The reaction solution was cooled with ice. To this was slowly added 500 ml of water, and the mixture was stirred for an additional 2 hours with ice- cooling. The crystals precipitated were collected by filtration, washed with 300 ml of cold water, and then dried under reduced pressure to give 65.88 g of (tert-butoxycarbonyl-amino)acetothioamide as colorless crystals.

reactant | ammonia | 25 g | N | H3N
reactant | hydrogen sulfide | 50 g | S | H2S
reactant | (tert-butoxycarbonylamino)acetonitrile | 71.45 g | C(C)(C)(C)OC(=O)NCC#N | C7H12N2O2
reactant | water | 500 ml | O | H2O
solvent | methanol | 230 ml | CO | CH4O
product | (tert-butoxycarbonyl-amino)acetothioamide | 65.88 g | C(C)(C)(C)OC(=O)NCC(N)=S | C7H14N2O2S
